US07601711B2
[5-(4-Cyclopentyl-piperazine-1-carbonyl)-1-(2,2,2-trifluoro-ethyl)-1H-indol-2-yl]-morpholin-4-yl-methanone
The title compound was synthesized in analogy to example 46, intermediate e), from 2-(morpholine-4-carbonyl)-1-(2,2,2-trifluoro-ethyl)-1H-indole-5-carboxylic acid and 1-cyclopentylpiperazine (commercially available), to give the desired product as a white solid (49%).

reactant | 2-(morpholine-4-carbonyl)-1-(2,2,2-trifluoro-ethyl)-1H-indole-5-carboxylic acid | N1(CCOCC1)C(=O)C=1N(C2=CC=C(C=C2C1)C(=O)O)CC(F)(F)F | C16H15F3N2O4
reactant | 1-cyclopentylpiperazine | C1(CCCC1)N1CCNCC1 | C9H18N2
product | [5-(4-Cyclopentyl-piperazine-1-carbonyl)-1-(2,2,2-trifluoro-ethyl)-1H-indol-2-yl]-morpholin-4-yl-methanone | 49% | C1(CCCC1)N1CCN(CC1)C(=O)C=1C=C2C=C(N(C2=CC1)CC(F)(F)F)C(=O)N1CCOCC1 | C25H31F3N4O3
